US06063782
1.62 g (0.014 mole) of potassium tert-butoxide was added to a solution of 1.02 g (0.0081 mole) of 4-fluorobenzyl alcohol and 0.12 g (0.00045 mole) of 18-crown-6 in 10 ml of tetrahydrofuran and the resulting mixture was stirred at room temperature for 25 minutes. A solution of 0.60 g (0.0027 mole) of 7-chloro-1-(2-propenyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine in 5 ml of tetrahydrofuran was added dropwise to the mixture and stirred at room temperature for 10 hours. After completion of the reaction, the reaction mixture was poured into ice-water and the aqueous mixture was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel using a 2:3 mixture of ethyl acetate and hexane as an eluent to give 0.33 g of 7-(4-fluorobenzyloxy)-2,3-dimethyl-1-(1-propenyl)pyrrolo[2,3-d]pyridazine (trans) as a pale yellow powder.

reactant | potassium tert-butoxide | 0.014 mole, 1.62 g | CC(C)([O-])C.[K+]
reactant | 4-fluorobenzyl alcohol | 0.0081 mole, 1.02 g | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | 18-crown-6 | 0.00045 mole, 0.12 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 7-chloro-1-(2-propenyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.0027 mole, 0.60 g | ClC=1N=NC=C2C1N(C(=C2C)C)CC=C | C11H12ClN3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-(4-fluorobenzyloxy)-2,3-dimethyl-1-(1-propenyl)pyrrolo[2,3-d]pyridazine | 0.33 g | FC1=CC=C(COC=2N=NC=C3C2N(C(=C3C)C)C=CC)C=C1 | C18H18FN3O
